US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and quinoline-5-boronic acid were coupled in the same way as in Example 30 to give 2-{8-fluoro-3-[4-fluoro-3-(quinolin-5-yl)phenyl]-imidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (7 mg, 5%): m/z (ES+) 416 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | quinoline-5-boronic acid | N1=CC=CC=2C(=CC=CC12)B(O)O | C9H8BNO2
product | 2-{8-fluoro-3-[4-fluoro-3-(quinolin-5-yl)phenyl]-imidazo[1,2-α]pyridin-7-yl}propan-2-ol | 7 mg, 5% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=CC(=C(C=C2)F)C2=C1C=CC=NC1=CC=C2 | C25H19F2N3O
